US03974155
2-Chloro-4-(4-methoxypiperidinosulphonyl)benzene sulphonamide
Triethylamine (4.2 ml) and 4-methoxypiperidine (3.15 g) were added to a solution of 3-chloro-4-sulphamoyl-benzene sulphonyl chloride (8.7 g) in acetone (100 ml). The mixture was stirred at room temperature for 1 hour and then poured into 50 ml of N-hydrochloric acid. The resulting product was removed by filtration, washed with water and recrystallized from isopropanol to give the desired compound (8.4 g), m.p. 165°-167°C.

reactant | Triethylamine | 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxypiperidine | 3.15 g | COC1CCNCC1 | C6H13NO
reactant | 3-chloro-4-sulphamoyl-benzene sulphonyl chloride | 8.7 g | ClC=1C=C(C=CC1S(N)(=O)=O)S(=O)(=O)Cl | C6H5Cl2NO4S2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 2-Chloro-4-(4-methoxypiperidinosulphonyl)benzene sulphonamide | 8.4 g | ClC1=C(C=CC(=C1)S(=O)(=O)N1CCC(CC1)OC)S(=O)(=O)N | C12H17ClN2O5S2
